US06660744B1
A mixture of 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]benzonitrile (2.63 g, 0.00819 mol), cis-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (3.01 g, 0.00683 mol), tetrakis-(triphenylphosphine)palladium (0.473 g, 0.00041 mol) and sodium carbonate monohydrate (2.12 g, 0.0171 mol) was heated in a mixture of ethylene glycol dimethyl ether (80 mL) and water (40 mL) at 80° C. for sixteen hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and solvents were removed under the reduced pressure. The residue was partitioned between saturated aqueous sodium bicarbonate solution (200 mL) and ethyl acetate (200 mL), the organic layer separated and the aqueous layer further extracted with ethyl acetate twice (100 mL each). The combined organic extracts were dried over magnesium sulfate. The solvents were evaporated under reduced pressure to leave a tan solid which was purified by flash column chromatography on silica using dichloromethane/triethylamine/methanol (96:3:1) as a mobile phase to give cis-4-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzonitrile (2.45 g, 0.00483 mol) as a white solid.

reactant | 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]benzonitrile | 0.00819 mol, 2.63 g | CC1(OB(OC1(C)C)C1=CC=C(OC2=CC=C(C#N)C=C2)C=C1)C | C19H20BNO3
reactant | cis-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00683 mol, 3.01 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | sodium carbonate monohydrate | 0.0171 mol, 2.12 g | O.C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 80 mL | COCCOC | C4H10O2
solvent | water | 40 mL | O | H2O
product | cis-4-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzonitrile | 0.00483 mol, 2.45 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(OC1=CC=C(C#N)C=C1)C=C2)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C29H32N8O
